US08803420B2
A flask was charged with 9.2 g of 3-(3-bromophenyl)fluoranthene and 129 mL of tetrahydrofuran. After cooling the reaction solution to −70° C., 17.2 mL of a 1.65 M hexane solution of n-butyllithium was added dropwise to the reaction solution. The mixture was stirred at −70° C. for 2 hours. After the dropwise addition of 17.7 mL of triisopropyl borate to the reaction solution, the reaction solution was stirred at −70° C. for 1 hour. The reaction solution was then stirred for 5 hours while heating the reaction solution to room temperature. After the addition of 2 M hydrochloric acid to the reaction solution so that the reaction solution had a pH in the acidic region, the reaction solution was extracted with ethyl acetate. After removing the aqueous phase, the organic phase was washed with a saturated sodium chloride solution, and dried over anhydrous sodium sulfate. After filtering the organic phase, the solvent was evaporated under reduced pressure. The residue was washed with a hexane-ethyl acetate mixture to obtain 7.9 g of the target 3-(fluoranthen-3-yl)phenylboronic acid (yield: 95%).

reactant | 3-(3-bromophenyl)fluoranthene | 9.2 g | BrC=1C=C(C=CC1)C=1C=CC=2C3=CC=CC=C3C3=CC=CC1C23 | C22H13Br
reactant | n-butyllithium | C(CCC)[Li]
reactant | triisopropyl borate | 17.7 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | hexane | 1.65 M | CCCCCC | C6H14
solvent | tetrahydrofuran | 129 mL | O1CCCC1 | C4H8O
product | 3-(fluoranthen-3-yl)phenylboronic acid | yield: 95% | C1=CC(=C2C=CC=C3C4=CC=CC=C4C1=C23)C=2C=C(C=CC2)B(O)O | C22H15BO2
